US04894386
A solution of 6-chloromethyl-1-(4-methylphenylsulfonyl)indole (21.5 g) in acetonitrile (224 ml) was treated with potassium cyanide (8.8 g) and 1,4,7,10,13,16-hexaoxacyclooctadecane (3.6 g) and stirred at room temperature under a nitrogen atmosphere for 18 hr. The solution was poured onto ice and extracted with methylene chloride. The organic phase was washed with water and brine, dried (MgSO4) and evaporated. The resultant amber oil was purified by flash chromatography, eluting with 1:5 ethyl acetate:hexane, to give 1-(4-methylphenylsulfonyl)indole-6-acetonitrile (14.4 g, 76%) as a white powder; partial NMR (80 MHz, CDCl3): 2.34(s, 3H, ArCH3), 3.84(s, 2H, NCCH2), 6.62(dd, 1H, H3 -indole), 7.94(m, 1H, H7 -indole)

reactant | 6-chloromethyl-1-(4-methylphenylsulfonyl)indole | 21.5 g | ClCC1=CC=C2C=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C | C16H14ClNO2S
reactant | potassium cyanide | 8.8 g | [C-]#N.[K+]
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 3.6 g | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
solvent | acetonitrile | 224 ml | C(C)#N | C2H3N
product | 1-(4-methylphenylsulfonyl)indole-6-acetonitrile | 14.4 g, 76% | CC1=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC=C(C=C12)CC#N | C17H14N2O2S
